US05208297
Preparation of Anhydrous Lanthanum tris(acetylacetonate)
Acetylacetone (3 ml) was added dropwise to a solution of lanthanum isopropoxide (0.80 g) in 4 ml of toluene. A white precipitate began to form partway through the addition. Additional toluene was added (4 ml) and the mixture was stirred overnight. The solvent was removed in vacuo and the residue was extracted with acetone. Filtration gave 0.363 g of acetone insoluble solid. The acetone filtrate was concentrated to a pale yellow oil. The oil was extracted with pentane. The pentane solution was filtered and the pentane was removed in vacuo to give a light yellow solid (0.771 g) which was tested for polymerization activity.

reactant | Acetylacetone | 3 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | lanthanum isopropoxide | 0.80 g | CC([O-])C.[La+3].CC([O-])C.CC([O-])C
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | Lanthanum tris(acetylacetonate) | 0.771 g | CC(=O)CC(=O)C.CC(=O)CC(=O)C.CC(=O)CC(=O)C.[La] | InChI=1S/3C5H8O2.La/c3*1-4(6)3-5(2)7;/h3*3H2,1-2H3;
